US08685969B2
1. N-(3-Cyano-2-fluorophenyl)-4-(dimethylamino)benzamide
To a mixture of 3-amino-2-fluorobenzonitrile (2.24 g, 16.46 mmol) and 4-(dimethylamino)benzoyl chloride (3.46 g, 18.84 mmol) in 1,2-dichloroethane (50 mL) at rt was added pyridine (0.891 mL, 11.02 mmol). The resulting mixture was heated at 70° C. for 5 hr. On cooling to room temperature, the mixture was diluted with ethyl acetate (250 mL), washed with water (5×60 mL) and brine (60 mL), and dried over anhydrous MgSO4. The organic solution was concentrated under vacuum, and the residue was subjected to ISCO (2×330 g silica gel, 25-50% ethyl acetate/hexane) to afford the desired product (4.11 g, 14.51 mmol, 88% yield) as a white solid.

reactant | 3-amino-2-fluorobenzonitrile | 16.46 mmol, 2.24 g | NC=1C(=C(C#N)C=CC1)F | C7H5FN2
reactant | 4-(dimethylamino)benzoyl chloride | 18.84 mmol, 3.46 g | CN(C1=CC=C(C(=O)Cl)C=C1)C | C9H10ClNO
reactant | pyridine | 11.02 mmol, 0.891 mL | N1=CC=CC=C1 | C5H5N
solvent | 1,2-dichloroethane | 50 mL | ClCCCl | C2H4Cl2
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | N-(3-Cyano-2-fluorophenyl)-4-(dimethylamino)benzamide | 14.51 mmol, 4.11 g, 88% yield | C(#N)C=1C(=C(C=CC1)NC(C1=CC=C(C=C1)N(C)C)=O)F | C16H14FN3O
